US07842713B2
Preparation of Intermediate 4a: 2-Allyloxy-5-methoxy-benzoic acid methyl ester
K2CO3 (4.64 g, 33.6 mmol) and allyl bromide (1.56 mL, 18.5 mmol) were added to a solution of methyl 2-hydroxy-5-methoxybenzoate (2.5 mL, 16.8 mmol) in DMF (10 mL). The reaction mixture was heated to 60° C. for 1 h, and then quenched with H2O (80 mL) and extracted with EtOAc (2×80 mL). The organic layers were washed with H2O (150 mL), dried over MgSO4 and concentrated. The residue was purified by flash column chromatograph eluting with 5-10% EtOAc/hexane to give a colorless oil (3.07 g, 82%). 1H NMR (400 MHz, CDCl3) δ 7.34 (d, J=3.28 Hz, 1 H) 6.98-7.03 (m, 1 H) 6.90-6.94 (m, 1 H) 6.01-6.11 (m, 1 H) 5.44-5.51 (m, 1 H) 5.25-5.31 (m, 1 H) 4.57 (td, J=3.28, 1.52 Hz, 2 H) 3.91 (s, 3 H) 3.80 (s, 3 H).

reactant | K2CO3 | 33.6 mmol, 4.64 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 18.5 mmol, 1.56 mL | C(C=C)Br | C3H5Br
reactant | methyl 2-hydroxy-5-methoxybenzoate | 16.8 mmol, 2.5 mL | OC1=C(C(=O)OC)C=C(C=C1)OC | C9H10O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Allyloxy-5-methoxy-benzoic acid methyl ester | 3.07 g, 82% | COC(C1=C(C=CC(=C1)OC)OCC=C)=O | C12H14O4
